US07842688B2
b) tert-Butyl 3-(3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.66 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(toluene-4-sulphonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate in 10 ml of methanol is treated in an ultrasound bath in the presence of 0.5 g of magnesium turnings over 30 minutes. The reaction mixture is decantered off from the magnesium, diluted with ethyl acetate, washed with 1N HCl (2×), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.26 (1:2 EtOAc-heptane); Rt=5.62.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(toluene-4-sulphonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate | 0.66 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2OC3=C(N(C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC=C3)C=CC=C1 | C43H52N2O9S
reactant | magnesium | 0.5 g | [Mg] | Mg
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | O1C(CNC2=C1C=CC=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C | C36H46N2O7
